US04673740
When 38.8 g of 6-fluoroanthranilic acid, 39 g of 4-fluorobenzoyl chloride, 20 g of 50% strength sodium hydroxide solution, 0.45 g of benzyltrimethylammonium chloride, 700 g of 1,2-dichloroethane and 32.7 g of thionyl chloride are used as starting materials, and the procedure described in Example 1 is employed, 62 g (96%) of 5-fluoro-2-(p-fluorophenyl)-4H-3,1-benzoxazin-4-one of melting point 189°-193° C. are obtained.

reactant | 6-fluoroanthranilic acid | 38.8 g | FC=1C=CC=C(C1C(=O)O)N | C7H6FNO2
reactant | 4-fluorobenzoyl chloride | 39 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | thionyl chloride | 32.7 g | S(=O)(Cl)Cl | Cl2OS
catalyst | benzyltrimethylammonium chloride | 0.45 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 1,2-dichloroethane | 700 g | ClCCCl | C2H4Cl2
product | 5-fluoro-2-(p-fluorophenyl)-4H-3,1-benzoxazin-4-one | 62 g, 96% | FC1=CC=CC2=C1C(OC(=N2)C2=CC=C(C=C2)F)=O | C14H7F2NO2
